US08497368B2
Propionic acid [1-[3-(7-fluoro-quinolin-6-ylmethyl)-3H-[1,2,3]triazolo[4,5-b]pyrazin-5-yl]-eth-(E)-ylidene]-hydrazide
The title compound (28.5 mg, 74%) was synthesized from 1-[3-(7-fluoro-quinolin-6-ylmethyl)-3H-[1,2,3]triazolo[4,5-b]pyrazin-5-yl]-ethanone (30.0 mg, 0.09 mmol) and propionic acid hydrazide (24.6 mg, 0.28 mmol) using the same procedure as described in the synthesis of example 72. 1H-NMR (400 MHz, DMSO-d6) δ ppm 10.93, 10.76 (bs, 1H), 9.45 (s, 1H), 8.92 (dd, 1H), 8.41 (d, 1H), 8.18 (d, 1H), 7.83 (d, 1H), 7.53 (dd, 1H), 6.22 (s, 2H), 2.79 (q, 2H), 2.31 (s, 3H), 1.09 (t, 3H). LCMS (method E): [MH]+=393, tR=4.78 min.

reactant | 1-[3-(7-fluoro-quinolin-6-ylmethyl)-3H-[1,2,3]triazolo[4,5-b]pyrazin-5-yl]-ethanone | 0.09 mmol, 30.0 mg | FC1=C(C=C2C=CC=NC2=C1)CN1N=NC2=NC=C(N=C21)C(C)=O | C16H11FN6O
reactant | propionic acid hydrazide | 0.28 mmol, 24.6 mg | C(CC)(=O)NN | C3H8N2O
product | Propionic acid [1-[3-(7-fluoro-quinolin-6-ylmethyl)-3H-[1,2,3]triazolo[4,5-b]pyrazin-5-yl]-eth-(E)-ylidene]-hydrazide | 28.5 mg, 74% | FC1=C(C=C2C=CC=NC2=C1)CN1N=NC2=NC=C(N=C21)\C(\C)=N\NC(CC)=O | C19H17FN8O
